US04000307
A suspension of 22.4 g. (0.447 mole) of sodium hydride (50% in mineral oil) in 200 ml. dimethylacetamide is treated dropwise by the addition of 59.6 g. (0.406 mole) phthalimide in 500 ml. dimethylacetamide. The mixture is stirred for 2 more hours at room temperature and then treated dropwise with 100 g. (0.406 mole) α-bromo-p-pivaloyl toluene in 300 ml. dimethylacetamide. The resulting mixture is stirred at room temperature for 18 hours and then the solvent is removed in vacuo. The residue is taken up in methylene chloride/water and the layers separated. The water layer is washed twice with methylene chloride and the combined methylene chloride layers washed twice with water, dried over anhydrous magnesium sulfate, filtered and evaporated. The resulting solid is triturated with ether to give 4'-(phthalimidomethyl)pivalophenone; m.p. 138°-140.5° C.

reactant | sodium hydride | 0.447 mole | [H-].[Na+]
reactant | phthalimide | 0.406 mole | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | α-bromo-p-pivaloyl toluene | 0.406 mole | BrCC1=CC=C(C=C1)C(C(C)(C)C)=O | C12H15BrO
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 4'-(phthalimidomethyl)pivalophenone | C1(C=2C(C(N1CC1=CC=C(C=C1)C(C(C)(C)C)=O)=O)=CC=CC2)=O | C20H19NO3
